US07495007B2
To dry tetrahydrofuran (100 mL) was added 1M THF solution of LiHMDS (105 mmol, 105 mL) under nitrogen at room temperature, followed by the addition of 2,5-difluorobenzaldehyde (14.9 g, 105 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (13.3 mL, 105 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (19 mL, 136 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (3.88 mL, 54.4 mmol) in diethyl ether (300 ml). The cooling bath was removed, and the mixture was stirred at room temperature overnight. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give 1-(2,5-difluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 105 mmol, 105 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2,5-difluorobenzaldehyde | 105 mmol, 14.9 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | trimethylsilyl chloride | 105 mmol, 13.3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 136 mmol, 19 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 54.4 mmol, 3.88 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(2,5-difluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC1=C(C=C(C=C1)F)C=NC(=C)O[Si](C)(C)C | C12H15F2NOSi
